US06518257B1
(iii) Production of N-ethyl-4′-[1-hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl][1,1′-biphenyl]-3-carboxamide
By the reaction in the same manner as in Example 4-(iii) using N-ethyl-4′-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl][1,1′-biphenyl]-3-carboxamide (4.00 g) and pyridine hydrochloride (1.14 g), the title compound (664 mg) was obtained as a colorless amorphous powder.

reactant | N-ethyl-4′-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl][1,1′-biphenyl]-3-carboxamide | 4.00 g | C(C)NC(=O)C=1C=C(C=CC1)C1=CC=C(C=C1)C(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O | C41H39N3O2
reactant | pyridine hydrochloride | 1.14 g | Cl.N1=CC=CC=C1
product | N-ethyl-4′-[1-hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl][1,1′-biphenyl]-3-carboxamide | 664 mg | C(C)NC(=O)C=1C=C(C=CC1)C1=CC=C(C=C1)C(C(C)C)(C=1N=CNC1)O | C22H25N3O2
